.subckt Decoder node_d3 node_d2 node_d1 node_d0 node_s1 node_s0 vdd gnd
    X1 Sc1 node_s1 vdd gnd NOT
    X2 Sc0 node_s0 vdd gnd NOT
    X3 node_d3 node_d2 node_d1 node_d0 node_s0 Sc0 node_s0 Sc0 node_s1 node_s1 Sc1 Sc1 vdd gnd And
.ends Decoder